* Subcircuit xor_gate

.lib "~/eSim-Workspace/prelayout/sky130_fd_pr/models/sky130.lib.spice" tt

.subckt xor_gate net-_m10-pad2_ net-_m1-pad2_ net-_m13-pad1_ 

xm5  net-_m10-pad3_ net-_m1-pad2_ net-_m5-pad3_ net-_m5-pad3_ sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm8  net-_m10-pad1_ net-_m1-pad1_ net-_m10-pad3_ net-_m10-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm7  net-_m14-pad1_ net-_m1-pad2_ net-_m10-pad1_ net-_m14-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm10  net-_m10-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm6  net-_m5-pad3_ net-_m2-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm11  net-_m10-pad3_ net-_m1-pad1_ net-_m11-pad3_ net-_m11-pad3_ sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm12  net-_m11-pad3_ net-_m10-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm1  net-_m1-pad1_ net-_m1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm3  net-_m14-pad1_ net-_m1-pad2_ net-_m1-pad1_ net-_m14-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm2  net-_m2-pad1_ net-_m10-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm4  net-_m14-pad1_ net-_m10-pad2_ net-_m2-pad1_ net-_m14-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm13  net-_m13-pad1_ net-_m10-pad3_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm14  net-_m14-pad1_ net-_m10-pad3_ net-_m13-pad1_ net-_m14-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm9  net-_m14-pad1_ net-_m2-pad1_ net-_m10-pad1_ net-_m14-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
v1  net-_m14-pad1_ gnd 3.3v
* Control Statements

.ends xor_gate
